US05834494
6-Chloro-5-ethylthioindoline (D64)
6-Chloro-5-ethylthioindole (D63) (0.35 g, 1.67 mmol) was treated with sodium cyanoborohydride as in the method of Description 10 to give the title compound (0.18 g, 57%) as a yellow oil.

reactant | 6-Chloro-5-ethylthioindole | 1.67 mmol, 0.35 g | ClC1=C(C=C2C=CNC2=C1)SCC | C10H10ClNS
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 6-Chloro-5-ethylthioindoline | 0.18 g, 57% | ClC1=C(C=C2CCNC2=C1)SCC | C10H12ClNS
